US05030644
1-Benzyl-3-methyl-2-[(3-phenoxy-2-oxopropyl) thio]-1H-imidazolium chloride
The above identified compound, m.p. 110°-112° C. was prepared in substantially the same manner as described in Example XX from 1 chloro-3-phenoxy-propan-2-one and 1-benzyl-3-methyl-imidazolium-2-thione.

reactant | chloro-3-phenoxy-propan-2-one | ClCC(COC1=CC=CC=C1)=O | C9H9ClO2
reactant | 1-benzyl-3-methyl-imidazolium-2-thione | C(C1=CC=CC=C1)[NH+]1C(N(C=C1)C)=S
product | 1-Benzyl-3-methyl-2-[(3-phenoxy-2-oxopropyl) thio]-1H-imidazolium chloride | [Cl-].C(C1=CC=CC=C1)[NH+]1C(N(C=C1)C)SCC(COC1=CC=CC=C1)=O | InChI=1S/C20H22N2O2S.ClH/c1-21-12-13-22(14-17-8-4-2-5-9-17)20(21)25-16-18(23)15-24-19-10-6-3-7-11-19;/h2-13,20H,14-16H2,1H3;1H
